US04968702
3-Amino-6-chloro-2-(2',4'-difluoro[1,1'-biphenyl]-4-yl)-4-quinolinecarboxylic acid
A basic aqueous solution of 4.3 g of 5-chloroisatin in water was reacted with 9.4 g of 2-amino-1-(2',4'-difluoro[1,1'-biphenyl]-4-yl)ethanone hydrochloride by the procedure described in example 20, giving 6.1 g of the desired compound as a yellow solid, mp 253°-254° C.

reactant | 5-chloroisatin | 4.3 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 2-amino-1-(2',4'-difluoro[1,1'-biphenyl]-4-yl)ethanone hydrochloride | 9.4 g | Cl.NCC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F
reactant | water | O | H2O
product | 3-Amino-6-chloro-2-(2',4'-difluoro[1,1'-biphenyl]-4-yl)-4-quinolinecarboxylic acid | 6.1 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)Cl)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C22H13ClF2N2O2
